US08563717B2
Intermediate 26: Phenylmethyl 2-(2-bromoethyl)-1-piperidinecarboxylate
To a solution of phenylmethyl 2-(2-hydroxyethyl)-1-piperidinecarboxylate (1.76 g, 6.70 mmol) in anhydrous dichloromethane (29 mL) was added carbon tetrabromide (4.44 g, 13.39 mmol). The resulting solution was cooled in ice/water. A solution of triphenylphosphine (1.76 g, 6.70 mmol) in 10 ml dry DCM was added dropwise over 30 mins. After complete addition the reaction was allowed to warm slowly to ambient temperature and stirring continued overnight. The reaction solution was reduced in volume to <10 ml (opaque) and this was loaded onto a 100 g silica cartridge and purified by chromatography on a Flashmaster 2 using a gradient of 0-25% ethyl acetate in cyclohexane over 40 minutes. Product fractions were combined and evaporated in vacuo to give the title compound as a colourless oil (1.62 g).

reactant | phenylmethyl 2-(2-hydroxyethyl)-1-piperidinecarboxylate | 6.70 mmol, 1.76 g | OCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H21NO3
reactant | carbon tetrabromide | 13.39 mmol, 4.44 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.70 mmol, 1.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 29 mL | ClCCl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Phenylmethyl 2-(2-bromoethyl)-1-piperidinecarboxylate | 1.62 g | BrCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H20BrNO2
